US05284838
trans-6-Cyano-4-(I,2-dihydro-4-hydroxy-2-oxopyrid-1-yl)-2,2-dimethylchroman-3-ol: SR 44 793
3 g of 6-cyano-2,2-dimethyl-3,4-epoxychromane are refluxed for 20 hours with 1.8 g of 2,4-dihydroxypyridine in 30 ml of dioxane and 20 ml of dimethylformamide, in the presence of 0.6 ml of a methanolic solution containing 35% of benzyltrimethylammonium hydroxide. The solvents are evaporated off under vacuum and the residue is then crystallized by the addition of isopropyl ether. The crystals obtained are taken up with water, filtered off and then washed with acetone to give 850 mg of the expected product.

reactant | 6-cyano-2,2-dimethyl-3,4-epoxychromane | 3 g | C(#N)C=1C=C2C3C(C(OC2=CC1)(C)C)O3 | C12H11NO2
reactant | 2,4-dihydroxypyridine | 1.8 g | OC1=NC=CC(=C1)O | C5H5NO2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | water | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | trans-6-Cyano-4-(I,2-dihydro-4-hydroxy-2-oxopyrid-1-yl)-2,2-dimethylchroman-3-ol | 850 mg | C(#N)C=1C=C2[C@H]([C@@H](C(OC2=CC1)(C)C)O)N1C(C=C(C=C1)O)=O | C17H16N2O4
